* C:\users\mateod\My Documents\Labs_Sintesis_Redes_Activas\Lab3_Diseño_Amp_Comp\3)VFA-CFA-Comp\amp_vfa_cfa_comp.asc
RF Vout N004 90k
RI N004 0 10k
V1 Vcc 0 10
V2 0 Vss 10
V3 Vin 0 SINE(0 10m 1k) AC 1
R2 Vout N001 850
R1 0 N001 22
XU2 N003 N001 Vcc Vss Vout LM6181/NS
XU1 Vin N004 Vcc Vss N002 LM324/NS
Rx N003 N002 1k
Cx N003 N002 31p
Ry N003 0 1k
* AMPLIFICADOR
* FUENTE DE ALIMENTACIÓN
* SEÑAL DE ENTRADA
.ac dec 100 1 1G
.include LM6181.mod
.lib ns_models.lib
.backanno
.end
