* C:\users\mateod\My Documents\Labs_Sintesis_Redes_Activas\Lab4_Filtros_Activos\4)FINAL\filtro_pb_pa.asc
XU1 N005 N001 Vcc Vss Vout TL072
Rb Vout N001 16k
Ra 0 N001 10k
V1 Vcc 0 12
V2 0 Vss 12
V3 Vin 0 SINE(0 10m 1k) AC 10m
C1 N004 N003 0.1µ
C2 N005 N004 0.1µ
R1 Vout N004 0.4k
R2 N005 0 10.5k
XU2 N007 N002 Vcc Vss N003 TL072
Rb1 N003 N002 16k
Ra1 0 N002 10k
R5 N006 Vin 12.9k
R6 N007 N006 1.29k
C3 N003 N006 0.1µ
C4 N007 0 0.1µ
* FUENTE DE ALIMENTACIÓN
* FUENTE SEÑAL
* FILTRO PASA BANDA
* FILTRO PASA BAJO
* FILTRO PASA ALTO
.ac dec 100 1 1G
.lib TL072.cir
.backanno
.end
