* C:\Users\franc\Documents\LTspice\Sintesis 2025\TP2\Caso 1.2 - LM324.asc
R1 N001 N003 {R}
R2 N001 N004 {R}
V1 V1 0 SINE(0 10m 1000)
V2 P001 0 0
Vss 0 N006 {V}
Vcc N005 0 {V}
Ri1 N003 V1 {Ri}
Ri2 N004 P001 {Ri}
Ra N002 N001 {RT}
Rc Vo N002 {RT}
Rb 0 N002 {RB}
XU1 0 N001 N005 N006 Vo LM324/NS
.tran .005
.param Ri=100000
.param R=1000000
.param RT=220000 RB=1637
.param V=10
* Caso 2: Ri= 100k; LM324
.lib ns_models.lib
.backanno
.end
