* C:\Users\franc\Documents\LTspice\Sintesis 2025\TP2\Caso 1.1 - LM741 - Slew Rate.asc
R1 N001 N002 {R}
R2 N001 N003 {R}
V1 V1 0 PULSE(-10m 10m 50u 1p 1p .1m .2m 10)
V2 P001 0 0
Rf Vo N001 {Rf}
Vss 0 N005 10
Vcc N004 0 10
Ri1 N002 V1 {Ri}
Ri2 N003 P001 {Ri}
XU2 0 N001 N004 N005 Vo LM741
.tran .0005
.param Ri 50
.param R=2200
.param Rf=66000
.param V 1
* Caso 1: Ri= 50; LM741
* Slew Rate
.lib LM741.lib
.backanno
.end
